US08058283B2
A mixture of 1-chloro-2-ethynylbenzene (0.63 g, 4.6 mmol), 5-bromo-2-methylsulfanylpyrimidine-4-carboxylic acid methyl ester (1.0 g, 3.8 mmol), triethylamine (2.5 ml), triphenylphosphine (0.125 g, 0.48 mmol), copper (I) iodide (0.025 g, 0.13 mmol), bistriphenyphosphinepalladium (II) dichloride (0.10 g, 0.14 mmol) and dimethylformamide (1 ml) was stirred in a heavy-walled Smith process vial and irradiated with microwaves to maintain 100° C. for 20 min. The mixture was diluted with dichloromethane (20 ml) and washed with 5% hydrochloric acid (20 ml), water (20 ml), saturated aqueous sodium hydrogencarbonate solution (20 ml) and water (20 ml) then dried (MgSO4) and evaporated in vacuo. The residual oil was purified by flash column chromatography over silica using a 1:4 mixture of hexane and dichloromethane as eluant. Appropriate fractions were combined and the solvents removed in vacuo to give 5-(2-chlorophenylethynyl)-2-methylsulfanylpyrimidine-4-carboxylic acid methyl ester (0.9 g) as a yellow oil. 250 MHz 1H-NMR (CDCl3) δ (ppm): 2.5 (s, 3H) (—SCH3), 3.9 (s, 3H) (—CO2CH3), 7.1-7.5 (m, 4H) (ArH), 8.65 (s, 1H) (ArH); m/z (M+H)+. 319, HPLC purity 91%, HPLC retention time 4.08 min.

reactant | 1-chloro-2-ethynylbenzene | 4.6 mmol, 0.63 g | ClC1=C(C=CC=C1)C#C | C8H5Cl
reactant | 5-bromo-2-methylsulfanylpyrimidine-4-carboxylic acid methyl ester | 3.8 mmol, 1.0 g | COC(=O)C1=NC(=NC=C1Br)SC | C7H7BrN2O2S
reactant | triethylamine | 2.5 ml | C(C)N(CC)CC | C6H15N
reactant | triphenylphosphine | 0.48 mmol, 0.125 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
catalyst | copper (I) iodide | 0.13 mmol, 0.025 g | [Cu]I
solvent | dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 5-(2-chlorophenylethynyl)-2-methylsulfanylpyrimidine-4-carboxylic acid methyl ester | 0.9 g | COC(=O)C1=NC(=NC=C1C#CC1=C(C=CC=C1)Cl)SC | C15H11ClN2O2S
